US07064124B2
N-(Pyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzamide
N-(Pyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide (0.050 g, 0.111 mmol) was dissolved in methanol (6 ml) and after adding thereto an aqueous saturated sodium hydrogencarbonate solution (3 ml), the solution was stirred at room temperature for 3 hours. After the completion of reaction, the reaction solution was diluted with water and then extracted with ethyl acetate. The extract was washed with water and then dried, and the solvent was removed by distillation. The obtained residue was recrystallized from ether to obtain the titled compound (0.023 g, 0.0564 mmol, 51%).

reactant | N-(Pyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-acetoxybenzamide | 0.111 mmol, 0.050 g | N1=C(C=CC=C1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)OC(C)=O)=O | C24H22N2O7
reactant | sodium hydrogencarbonate | 3 ml | C(O)([O-])=O.[Na+]
solvent | methanol | 6 ml | CO | CH4O
solvent | water | O | H2O
product | N-(Pyridin-2-yl)-5-(5,6-dimethoxy-3-methyl-1,4-benzoquinon-2-yl)methyl-2-hydroxybenzamide | 0.0564 mmol, 0.023 g, 51% | N1=C(C=CC=C1)NC(C1=C(C=CC(=C1)CC=1C(C(=C(C(C1C)=O)OC)OC)=O)O)=O | C22H20N2O6
